data/rdb19/train.csv
rxn,smiles,ea
4511,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],60.86122019437608
1690,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]1([C:16](=[C:15]([H:23])[H:24])[H:25])[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]([H:29])=[C:22]1[H:30])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],22.63254667207366
3744,[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([O:23])[H:34])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([O:23][H:11])[H:34])[H:10])([H:7])([H:8])[H:9],14.365968451660592
888,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],19.95893620181596
259,[C:4]([C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:4]([C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([O:2][H:19])[H:3],26.00915437474032
1146,[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:15]([N:14]([H:19])[H:20])([O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([H:19])[H:20],10.664024066471027
5587,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])([H:8])[H:21])([H:6])[H:7],35.18876518087927
646,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][O:21][O:20][C:19]([H:22])([H:23])[H:24],28.19594573962968
3059,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:18]([C:17]([C:16]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10],15.430848000571132
3226,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:23]([C:22]([C:21]([H:31])([H:32])[H:33])([H:34])[H:35])([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40],30.195871075382456
1842,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:22]1([H:30])[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])=[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]1[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],19.63716012553777
